US07888364B2
2 g of 2-chloro-4-fluorobenzonitrile was reacted with 1-mercapto-2-propanol via Procedure Q to afford 2-chloro-4-(2-hydroxypropylthio)benzonitrile. 2.5 g of 2-chloro-4-(2-hydroxypropylthio)benzonitrile was reacted via Procedure T to give 2-chloro-4-(2-hydroxypropylthio)benzoic acid. 2.1 g of 2-chloro-4-(2-hydroxypropylthio)benzoic acid was reacted via Procedure R to give 2-chloro-4-(2-hydroxypropylsulfonyl)benzoic acid. 70 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 2-chloro-4-(2-hydroxypropylsulfonyl)benzoic acid via Procedure G. The product was purified on reverse phase HPLC to yield 2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(2-hydroxypropylsulfonyl)benzamide. MS (Q1) 465.2 (M)+.

reactant | 2-chloro-4-fluorobenzonitrile | 2 g | ClC1=C(C#N)C=CC(=C1)F | C7H3ClFN
reactant | 1-mercapto-2-propanol | SCC(C)O | C3H8OS
product | 2-chloro-4-(2-hydroxypropylthio)benzonitrile | ClC1=C(C#N)C=CC(=C1)SCC(C)O | C10H10ClNOS
